US07674741B2
2-(Cyclohexyl-methyl)-γ-butyrolactone
2-(Cyclohexyl-methylene)-γ-butyrolactone (8.90 g) was added fast to a mixture of nickel(II) chloride (1.76 g) and methanol (30 mL) at room temperature. The obtained reaction mixture was cooled to 0° C., stirred at this temperature for 30 min and then treated portionwise with sodium borohydride (5.60 g). Upon completion of the addition, the mixture was stirred for 1 h at room temperature and then quenched by pouring onto a mixture of ice and 10% aqueous hydrochloric acid. The formed organic phase was separated and the aqueous phase was extracted with ether. The combined organic phases were dried over magnesium sulfate, filtered and concentrated on a rotary evaporator to give 6.96 g (77%) of the title compound.

reactant | 2-(Cyclohexyl-methylene)-γ-butyrolactone | 8.90 g | C1(CCCCC1)C=C1C(=O)OCC1 | C11H16O2
reactant | sodium borohydride | 5.60 g | [BH4-].[Na+]
catalyst | nickel(II) chloride | 1.76 g | [Ni](Cl)Cl
solvent | methanol | 30 mL | CO | CH4O
product | 2-(Cyclohexyl-methyl)-γ-butyrolactone | 6.96 g, 77% | C1(CCCCC1)CC1C(=O)OCC1 | C11H18O2
